US05273991
p-N,N-Bis(2-chloroethyl)aminobenzoyl chloride was prepared by dissolving p-N,N-bis(2-chloroethyl)aminobenzoic acid (360.1 mg, 1.37 mmol) in benzene (3 mL) and thionyl chloride (3 mL) and heating to reflux under a drying tube for 1.25 h. The excess thionyl chloride and solvent were then removed under reduced pressure and the residue coevaporated with dry CH2Cl2 (10 mL, twice). To a stirred solution of N-(N',N'-dimethylaminoethyl)-1-methyl-4-[1-methyl-4-aminoimidazole-2-carboxamido]imidazole-2-carboxamide (457 mg, 1.37 mmol) in dry CH2Cl2 (40 mL) with dry triethylamine (210 μL, 1.51 mmol) was cooled to -20° C. (CCl4 /liq N2 bath) and the above acid chloride dissolved in dry CH2Cl2 (10 mL) was added dropwise under an atmosphere of argon. The reaction mixture was kept at 20° C. for an additional 15 minutes and then allowed to stir at room temperature (22.5 h). After TLC analysis indicated that all of the starting material was gone, the reaction was concentrated under reduced pressure to an orange foam. The residue was then dissolved in CH2Cl2 (100 mL) and washed with saturated NaHCO3 (100 mL) and water (100 mL) sequentially. TLC analysis of the organic layers indicated impurities so the product was purified by column chromatography (silica gel) with methanol (1%) in chloroform as eluant. The resulting pure product was precipitated from CH2Cl2 with ether and hexane and the off-white powder dried in vacuo at room temperature. Yield: 216 mg (0.37 mmol, 27%). mp (dec.) 165° C. TLC (10% MeOH/CHCl3)Rf 0.40. 1H NMR (CDCl3) δ2.27 (s, 6H, N',N'-dimethyls), 2.53 (t, 2H, CH2NMe2), 3.50 (q, 2H, NCH2C), 3.68 (m, 4H, chloroethyl-CH2 --), 3.82 (m, 4H, chloroethyl-CH2 --), 4.02 (s, 3H, imidazole-1-methyl), 4.06 (s, 3H, imidazole-1-methyl), 6.75 (d, 2H, phenyl), 7.39 (s, 1H, imidazole), 7.58 (s, 1H, imidazole), 7.83 (t, 1H, NH), 7.94 (d, 2H, phenyl), 8.71 (br s, 1H, NH), 9.31 (br s, 1H, NH). 13C--NMR (CDCl3): δ35.6, 36.7, 40.2, 45.2, 53.3, 57.9, 111.2, 113.3, 114.6, 122.0, 129.4, 133.5, 135.4, 136.9, 149.0, 158.8, 159.5, 163.9. IR(Nujol): υ3420, 1654, 1606, 1518, 1185, 668 cm-1. UV (H2O ): λmax 216 (ε34051 cm-1M-1), 316 nm (ε22570 cm-1M-1). MS (FAB, TFA-NBA) m/z (relative intensity): 578 (M+, 80). Anal. calcd. for C25H33Cl2N9O3. 1/2H2O: C, 51.10; H, 5.84. Observed C, 51.11; H, 5.72.

reactant | p-N,N-bis(2-chloroethyl)aminobenzoic acid | 1.37 mmol, 360.1 mg | ClCCN(CCCl)C1=CC=C(C(=O)O)C=C1 | C11H13Cl2NO2
reactant | triethylamine | 1.51 mmol, 210 μL | C(C)N(CC)CC | C6H15N
reactant | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | benzene | 3 mL | C1=CC=CC=C1 | C6H6
solvent | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | p-N,N-Bis(2-chloroethyl)aminobenzoyl chloride | ClCCN(CCCl)C1=CC=C(C(=O)Cl)C=C1 | C11H12Cl3NO
